US05229409
A. Preparation of (±)-6-Bromo-1-triisopropylsilyl-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]-indole
To a suspension of 1.25 g (7.50 mmol) of potassium hydride (24% dispersion in mineral oil) in 50 mL of THF at 0° C. was added a solution of 2.00 g (5.97 mmol) of 6-bromo-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole in 2 mL of THF. After stirring for 40 min, an addition of 1.90 mL (7.18 mmol) of triisopropylsilyl triflate was made. Stirring was continued for another hour. The mixture was then poured into cold NaHCO3 solution, and the product was extracted into CH2Cl2. This extract was washed with NaCl solution and dried over Na2SO4. Evaporation of the CH2Cl2 left a brown oil which was chromatographed over 50 g of silica gel using toluene followed by 1:3 EtOAc/toluene. The silylated product from the column was isolated as a light brown oil in quantitative yield. The product slowly crystallized upon standing.

reactant | potassium hydride | 7.50 mmol, 1.25 g | [H-].[K+]
reactant | 6-bromo-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole | 5.97 mmol, 2.00 g | BrC1=C2C=3C(=CNC3C=C1)CC(C2)N(CCC)CCC | C17H23BrN2
reactant | triisopropylsilyl triflate | 7.18 mmol, 1.90 mL | O(S(=O)(=O)C(F)(F)F)[Si](C(C)C)(C(C)C)C(C)C | C10H21F3O3SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (±)-6-Bromo-1-triisopropylsilyl-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]-indole | quantitative yield | BrC1=C2C=3C(=CN(C3C=C1)[Si](C(C)C)(C(C)C)C(C)C)CC(C2)N(CCC)CCC | C26H43BrN2Si
